US07960409B2
Step 2: 7-methylquinoline-2-carbonitrile
To a solution of 7-methylquinoline-1-oxide (18.3 g, 115 mmol) in 1,2-dichloroethane (750 mL) was added trimethylsilyl cyanide (30.8 mL, 230 mmol) followed by dimethylcarbamoyl chloride (21.2 mL, 230 mmol) and stirred at room temperature overnight. The solution was quenched slowly with a sat. solution of sodium bicarbonate, diluted with water and extracted two times with dichloromethane. The combined organic extracts were dried (MgSO4) and concentrated to give the crude compound. Flash chromatography of the residue on silica gel (eluting with 3% acetone in dichloromethane) provided the title compound. 1H NMR (400 MHz, acetone-d6): δ 8.56 (d, 1H), 8.03 (d, 1H), 7.95 (s, 1H), 7.88 (d, 1H), 7.67 (d, 1H), 2.62 (s, 3H).

reactant | 7-methylquinoline-1-oxide | 115 mmol, 18.3 g | CC1=CC=C2C=CC=[N+](C2=C1)[O-] | C10H9NO
reactant | trimethylsilyl cyanide | 230 mmol, 30.8 mL | C[Si](C)(C)C#N | C4H9NSi
reactant | dimethylcarbamoyl chloride | 230 mmol, 21.2 mL | CN(C(=O)Cl)C | C3H6ClNO
solvent | 1,2-dichloroethane | 750 mL | ClCCCl | C2H4Cl2
product | 7-methylquinoline-2-carbonitrile | CC1=CC=C2C=CC(=NC2=C1)C#N | C11H8N2
